US04661641
In a sulphonation flask equipped with a stirrer, a thermometer, a dropping funnel, a reflux condenser and an apparatus for inert gasification 16 ml of tert.butanol and 20 ml of absolute toluene were placed under argon and cooled to -25° C. This solution was treated dropwise at -30° C. to -20° C. within 10 minutes with 52 ml of a 1.56M solution of butyl lithium in hexane and the mixture was stirred for a further 30 minutes without cooling. There was subsequently added to the thus-prepared solution of lithium tert.-butylate at about 20° C. in one portion a solution of 14.4 g of (1S,4R,6R)-4-hydroxy-1-(5-hydroxy-3-methyl-3E-penten-1-ynyl)-2,2,6-trimethylcyclohexyl benzoate in 120 ml of absolute toluene. The suspension obtained was heated carefully to 65° C. with the aid of an oil bath and stirred at this temperature for 1.5 hours. Thereafter, the mixture was poured on to 150 ml of ice/water. The aqueous phase was separated and extracted twice with 150 ml of diethyl ether each time. The organic phases were washed with 150 ml of saturated sodium chloride solution, combined, dried over sodium sulphate and concentrated on a rotary evaporator at about 40° C. and the residue was then dried at room temperature for 1 hour in a high vaccum. The crude product obtained (12.0 g) was chromatographed on silica gel with diethyl ether/hexane (vol. 1:1). From the product-containing fractions there was obtained a total of 7.5 g (80%) of (4R)-5-(4-hydroxy-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-2E-penten-4-yn-1-ol as yellowish crystals (purity 98.8%, content of 2Z isomer 1.1%).

reactant | tert.butanol | 16 ml | C(C)(C)(C)O | C4H10O
reactant | butyl lithium | C(CCC)[Li]
reactant | (1S,4R,6R)-4-hydroxy-1-(5-hydroxy-3-methyl-3E-penten-1-ynyl)-2,2,6-trimethylcyclohexyl benzoate | 14.4 g | C(C1=CC=CC=C1)(=O)O[C@@]1(C(C[C@@H](C[C@H]1C)O)(C)C)C#C\C(=C\CO)\C | C22H28O4
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (4R)-5-(4-hydroxy-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-2E-penten-4-yn-1-ol | 7.5 g, 80% | O[C@@H]1CC(=C(C(C1)(C)C)C#CC(/C=C/O)C)C | C15H22O2
